US07335658B2
6-[4-(5-TRIFLUOROMETHYL-3H-IMIDAZOLE-4-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 5-trifluoromethyl-3H-imidazole-4-carboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-ylpyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white powder (48% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.03, 7.86, 7.70, 6.99, 3.80, 3.46, 1.75-1.62, 1.48, 0.92. MS (ES+) m/z 440.2 (M+1).

reactant | 5-trifluoromethyl-3H-imidazole-4-carboxylic acid | FC(C1=C(NC=N1)C(=O)O)(F)F | C5H3F3N2O2
reactant | 6-piperazin-1-ylpyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(5-TRIFLUOROMETHYL-3H-IMIDAZOLE-4-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1NC=NC1C(F)(F)F)C | C19H24F3N7O2
